US08455477B2
To a solution of bromoacetaldehyde dimethyl acetal (0.16 mL, 1.38 mmol) in water (2 mL) was added hydrochloric acid (0.046 mL, 0.276 mmol). After stirring at room temperature for 2 hours, the reaction was heated to 80° C. for 40 mins to give a clear solution. The reaction was cooled down to room temperature, and sodium bicarbonate (147 mg, 1.75 mmol) was added, followed by a solution of 6-(benzyloxy)-4-phenylpyridin-2-amine (254 mg, 0.919 mmol) in 1,4-dioxane (2 mL). The reaction was stirred overnight at ambient temperature, then diluted with ethyl acetate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to give 5-(benzyloxy)-7-phenylimidazo[1,2-a]pyridine. LRMS (ESI) calculated for C20H17N2O [M+H]+, 301.1; found 301.0.

reactant | bromoacetaldehyde dimethyl acetal | 1.38 mmol, 0.16 mL | COC(CBr)OC | C4H9BrO2
reactant | hydrochloric acid | 0.276 mmol, 0.046 mL | Cl | ClH
reactant | sodium bicarbonate | 1.75 mmol, 147 mg | C([O-])(O)=O.[Na+]
reactant | 6-(benzyloxy)-4-phenylpyridin-2-amine | 0.919 mmol, 254 mg | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N)C1=CC=CC=C1 | C18H16N2O
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(benzyloxy)-7-phenylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC1=CC(=CC=2N1C=CN2)C2=CC=CC=C2 | C20H16N2O
